US07786132B2
(iv) 1-(2-(4-(5-Benzyl-1,3,4-thiadiazol-2-yl)-5-chloropyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione
4-(5-Benzyl-1,3,4-thiadiazol-2-yl)-5-chloro-2-(methylthio)pyrimidine (0.190 g, 0.57 mmols) was dissolved in 75 mL acetone. Oxone (1.05 g, 1.7 mmol) was dissolved in 75 mL H2O and added to the acetone solution. This mixture was allowed to stir for 5 h. The acetone was removed under vacuum, the resulting precipitate was obtained by filtration. LC/MS analysis indicates a mixture of both sulfoxide and sulfone. This solid mixture was dried briefly in a vacuum oven. This material was charged to a microwave reaction vessel along with 1-(2-aminoethyl)-5,5-dimethyl-imidazolidine-2,4-dione (0.194 g, 1.1 mmol) and diisopropyl ethylamine (0.20 mL, 1.1 mmol) and 15 mL IPA. This reaction was heated under microwave conditions to 170° C. for 1200 s. Upon cooling 0.236 g (90% yield) of product was obtained by filtration. MS (M+H)+ 458.

reactant | 4-(5-Benzyl-1,3,4-thiadiazol-2-yl)-5-chloro-2-(methylthio)pyrimidine | 0.57 mmols, 0.190 g | C(C1=CC=CC=C1)C1=NN=C(S1)C1=NC(=NC=C1Cl)SC | C14H11ClN4S2
reactant | Oxone | 1.7 mmol, 1.05 g | OOS(=O)[O-].[K+]
reactant | 1-(2-aminoethyl)-5,5-dimethyl-imidazolidine-2,4-dione | 1.1 mmol, 0.194 g | NCCN1C(NC(C1(C)C)=O)=O | C7H13N3O2
reactant | diisopropyl ethylamine | 1.1 mmol, 0.20 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetone | 75 mL | CC(=O)C | C3H6O
solvent | H2O | 75 mL | O | H2O
solvent | IPA | 15 mL | CC(C)O | C3H8O
product | 1-(2-(4-(5-Benzyl-1,3,4-thiadiazol-2-yl)-5-chloropyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | 0.236 g, 90% yield | C(C1=CC=CC=C1)C1=NN=C(S1)C1=NC(=NC=C1Cl)NCCN1C(NC(C1(C)C)=O)=O | C20H20ClN7O2S
